* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.0056758228371056796
Fd1_1 0 s1 V1 0.283791141855284
Gr1_1_1 0 s1 x1_a1 0 2263767541.10461
Gr2_re_1_1 0 s1 x2_re_a1 0 -22329094.12055426
Gr2_im_1_1 0 s1 x2_im_a1 0 71928975.19492094
Gr3_re_1_1 0 s1 x3_re_a1 0 -158743803.428506
Gr3_im_1_1 0 s1 x3_im_a1 0 -44772454.456526645
Gr4_re_1_1 0 s1 x4_re_a1 0 25206343.83513809
Gr4_im_1_1 0 s1 x4_im_a1 0 94900130.80110508
Gr5_re_1_1 0 s1 x5_re_a1 0 65422264.308397986
Gr5_im_1_1 0 s1 x5_im_a1 0 28784524.67873967
Gd1_2 0 s1 p2 0 -0.001011303814799863
Fd1_2 0 s1 V2 -0.05056519073999316
Gr1_1_2 0 s1 x1_a2 0 -20120874862.081245
Gr2_re_1_2 0 s1 x2_re_a2 0 1144540577.4600508
Gr2_im_1_2 0 s1 x2_im_a2 0 -1125948902.180758
Gr3_re_1_2 0 s1 x3_re_a2 0 -566997950.4491836
Gr3_im_1_2 0 s1 x3_im_a2 0 771748278.2854954
Gr4_re_1_2 0 s1 x4_re_a2 0 -587299748.213425
Gr4_im_1_2 0 s1 x4_im_a2 0 -1894789146.475718
Gr5_re_1_2 0 s1 x5_re_a2 0 -1729564496.9556954
Gr5_im_1_2 0 s1 x5_im_a2 0 -399950115.0670449
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 5.820274281761188e-12
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 1.856875238369237e-10
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 505920053426.09186
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -505920053426.09186
Rp2_im_im_a1 0 x2_im_a1 1.856875238369237e-10
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 1.904966009083839e-10
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 458135762856.08636
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -458135762856.08636
Rp3_im_im_a1 0 x3_im_a1 1.904966009083839e-10
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 1.7098345246212114e-10
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 489776088275.2741
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -489776088275.2741
Rp4_im_im_a1 0 x4_im_a1 1.7098345246212114e-10
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 1.792629559911847e-10
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 473971663588.9661
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -473971663588.9661
Rp5_im_im_a1 0 x5_im_a1 1.792629559911847e-10
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 -0.001011303814799863
Fd2_1 0 s2 V1 -0.05056519073999316
Gr1_2_1 0 s2 x1_a1 0 -20120874862.081245
Gr2_re_2_1 0 s2 x2_re_a1 0 1144540577.460051
Gr2_im_2_1 0 s2 x2_im_a1 0 -1125948902.180758
Gr3_re_2_1 0 s2 x3_re_a1 0 -566997950.4491836
Gr3_im_2_1 0 s2 x3_im_a1 0 771748278.2854955
Gr4_re_2_1 0 s2 x4_re_a1 0 -587299748.213425
Gr4_im_2_1 0 s2 x4_im_a1 0 -1894789146.475718
Gr5_re_2_1 0 s2 x5_re_a1 0 -1729564496.9556954
Gr5_im_2_1 0 s2 x5_im_a1 0 -399950115.067045
Gd2_2 0 s2 p2 0 0.009654765085532792
Fd2_2 0 s2 V2 0.48273825427663963
Gr1_2_2 0 s2 x1_a2 0 -21454143629.332943
Gr2_re_2_2 0 s2 x2_re_a2 0 -46662334.4963915
Gr2_im_2_2 0 s2 x2_im_a2 0 266035311.27620775
Gr3_re_2_2 0 s2 x3_re_a2 0 334022704.1997062
Gr3_im_2_2 0 s2 x3_im_a2 0 -715539212.6080909
Gr4_re_2_2 0 s2 x4_re_a2 0 306766595.87608635
Gr4_im_2_2 0 s2 x4_im_a2 0 -275189093.3346927
Gr5_re_2_2 0 s2 x5_re_a2 0 57150756.678073116
Gr5_im_2_2 0 s2 x5_im_a2 0 -6882822.314907284
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 5.820274281761188e-12
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 1.856875238369237e-10
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 505920053426.09186
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -505920053426.09186
Rp2_im_im_a2 0 x2_im_a2 1.856875238369237e-10
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 1.904966009083839e-10
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 458135762856.08636
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -458135762856.08636
Rp3_im_im_a2 0 x3_im_a2 1.904966009083839e-10
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 1.7098345246212114e-10
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 489776088275.2741
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -489776088275.2741
Rp4_im_im_a2 0 x4_im_a2 1.7098345246212114e-10
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 1.792629559911847e-10
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 473971663588.9661
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -473971663588.9661
Rp5_im_im_a2 0 x5_im_a2 1.792629559911847e-10
.ENDS s_equivalent
